US05968923
1-Diphenylmethyl-3-(N-[2-hydroxyethyl]-N-methylcarbamoyl)azetidine
A mixture of 1-diphenylmethylazetidine-3-carboxylic acid (see Preparation 58) (1.8 g, 6.73 mmol), 2-methylaminoethanol (0.76 g, 1.5 mol. equiv.), 1-[3-dimethylaminopropyl]-3-ethylcarbodiimide hydrochloride (1.27 g, 1.1 mol. equiv.), 1-hydroxybenzotriazole hydrate (1.08 g, 1.05 mol. equiv.) and N-methylmorpholine (1.5 g, 2.2 mol. equiv.) in dry dichloromethane (50 ml) was stirred at room temperature for sixteen hours. The solvent was removed under reduced pressure and the residue partitioned between ethyl acetate (50 ml) and saturated aqueous sodium bicarbonate solution (50 ml). The layers were separated and the aqueous layer further extracted with ethyl acetate (30 ml). The combined organic layers were dried over anhydrous sodium sulphate. The solution was filtered, the solvent removed from the filtrate under reduced pressure and the residue chromatographed using silica gel eluting with methanol:dichloromethane (7:93, by volume) to give the title compound (1.76 g). TLC Rf 0.3 (silica, methanol:dichloromethane, 7:93, by volume). LRMS m/z=325(m+1)+. Found C, 71.99; H, 7.60; N, 8.47. C20H24N2O2.0.13 CH2Cl2 requires C, 72.14; H, 7.30; N, 8.36%.

reactant | 1-diphenylmethylazetidine-3-carboxylic acid | 6.73 mmol, 1.8 g | C1(=CC=CC=C1)C(N1CC(C1)C(=O)O)C1=CC=CC=C1 | C17H17NO2
reactant | 2-methylaminoethanol | 1.5 mol, 0.76 g | CNCCO | C3H9NO
reactant | 1-[3-dimethylaminopropyl]-3-ethylcarbodiimide hydrochloride | 1.1 mol, 1.27 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 1.05 mol, 1.08 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 2.2 mol, 1.5 g | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-Diphenylmethyl-3-(N-[2-hydroxyethyl]-N-methylcarbamoyl)azetidine | 1.76 g | C1(=CC=CC=C1)C(N1CC(C1)C(N(C)CCO)=O)C1=CC=CC=C1 | C20H24N2O2
